US08048909B2
Ethyl 5-butyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate
Under an argon atmosphere, ethyl 5-butyl-1H-pyrrole-3-carboxylate (976 mg) was dissolved in tetrahydrofuran (50 mL), sodium hydride (60% in oil, 240 mg) was added and the mixture was stirred at room temperature for 30 min. Benzenesulfonyl chloride (0.77 mL) was added, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→8:2), and the obtained solid was washed with hexane to give the title compound as a colorless solid (yield 780 mg, 47%).

reactant | ethyl 5-butyl-1H-pyrrole-3-carboxylate | 976 mg | C(CCC)C1=CC(=CN1)C(=O)OCC | C11H17NO2
reactant | sodium hydride | 240 mg | [H-].[Na+]
reactant | Benzenesulfonyl chloride | 0.77 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Ethyl 5-butyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | yield 780 mg, 47% | C(CCC)C1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)C(=O)OCC | C17H21NO4S
